US05455373
Perfluoroheptanoic acid 9.5 g (0.026 mole), iodine 4.0 g (0.016 mole) and Freon 113 (500 ml) were mixed and treated with approximately 33% fluorine diluted with nitrogen until the color due to iodine disappeared. The mixture was washed with water containing a small amount of sodium thiosulfite and dried over magnesium sulfate. 1.5 g (13% yield) of perfluorohexyl iodide was obtained.

reactant | Perfluoroheptanoic acid | 0.026 mole, 9.5 g | FC(C(=O)O)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C7HF13O2
reactant | fluorine | FF | F2
reactant | iodine | II | I2
reactant | iodine | 0.016 mole, 4.0 g | II | I2
product | perfluorohexyl iodide | 1.5 g, 13% yield | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C6F13I
